US06258812B1
1-(4-Fluoroanilino)-4-(4-pyridylmethyl)phthalazine
A mixture of 0.511 g (2 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine and 0.576 ml (6 mmol) 4-fluoroaniline is heated for 2 h at 90° C. The residue is then distributed between acetate and 20% aqueous potassium carbonate solution. The organic phase washed with water and dried over sodium sulfate is evaporated and the residue purified on silica gel by flash chromatography using acetate/methanol mixtures (50:1 and 25:1). Title compound is obtained after crystallization of the product-containing fractions from acetonitrile and drying under HV (6 h, 100° C.); m.p. 129-131° C.; ESI-MS: (M+H)+=331.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 2 mmol, 0.511 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | 4-fluoroaniline | 6 mmol, 0.576 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | acetate | C(C)(=O)[O-]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1-(4-Fluoroanilino)-4-(4-pyridylmethyl)phthalazine | FC1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | C20H15FN4
